US04374266
reacting the fluorophthalic anhydride with ammonia to form ammonium fluorophthalamate.

reactant | fluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | ammonia | N | H3N
product | ammonium fluorophthalamate | FC1=C(C(C(=O)[O-])=CC=C1)C(=O)N.[NH4+] | InChI=1S/C8H6FNO3.H3N/c9-5-3-1-2-4(8(12)13)6(5)7(10)11;/h1-3H,(H2,10,11)(H,12,13);1H3
